US04359475
Ethereal hydrogen chloride was added dropwise to a stirred solution of 2.0 g. of 1-[[2-(2-(4-methylphenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole in 30 ml. of anhydrous ether until precipitation was complete. The product was filtered off, washed with ether, air-dried and recrystallized from methanol/ethyl acetate to yield 1-[[2-(2-(4-methylphenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole hydrochloride--m.p. 206.5°-208° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[[2-(2-(4-methylphenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole | CC1=CC=C(C=C1)CCC1(SCCS1)CN1C=NC=C1 | C16H20N2S2
product | 1-[[2-(2-(4-methylphenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole hydrochloride | Cl.CC1=CC=C(C=C1)CCC1(SCCS1)CN1C=NC=C1 | InChI=1S/C16H20N2S2.ClH/c1-14-2-4-15(5-3-14)6-7-16(19-10-11-20-16)12-18-9-8-17-13-18;/h2-5,8-9,13H,6-7,10-12H2,1H3;1H
